US07906654B2
Synthesis of 2-[(2-hydroxyethyl)amino]-3-nitrobenzonitrile
2-chloro-3-nitrobenzonitrile (74 g, 0.408 mol) is mixed with ethanol (370 ml) and ethanolamine (57 ml). The mixture is stirred for 16 hrs at room temperature. To complete the reaction, the mixture is refluxed for 2 hours. After cooling, the mixture is concentrated under vacuum; the product precipitates as a red solid. To eliminate the ethanolamine hydrochloride salt, the suspension is triturated with 500 ml of water and filtrated under vacuum. The solid is washed with ethanol and ether then dried to give the desired product (75 g, 89%).

reactant | 2-chloro-3-nitrobenzonitrile | 0.408 mol, 74 g | ClC1=C(C#N)C=CC=C1[N+](=O)[O-] | C7H3ClN2O2
reactant | ethanolamine | 57 ml | C(O)CN | C2H7NO
solvent | ethanol | 370 ml | C(C)O | C2H6O
product | 2-[(2-hydroxyethyl)amino]-3-nitrobenzonitrile | 75 g, 89% | OCCNC1=C(C#N)C=CC=C1[N+](=O)[O-] | C9H9N3O3
